US07868188B2
N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]methanesulfonamide (63 mg, purity 88%, 0.17 mmol) was dissolved in a mixture of THF (1 mL) and DMF (1 mL) and cooled to 0° C. Pyridine (0.103 mL, 1.27 mmol) was added followed by phenyl chloroformate (0.027 mL, 0.2 mmol). The stirring was continued for 25 minutes at 0° C. and at room temperature for 1 hour. Additional phenyl chloroformate (0.013 mL, 0.1 mmol) was added and the stirring was continued for 45 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate. The organic phase was washed with saturated aqueous sodium hydrogen carbonate, twice with water and finally with brine. Evaporation of the organic solvent at reduced pressure gave N-[5-(6-chloro-5-methanesulfonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]carbamic acid phenyl ester which was used without purification; Mass Spectrum: M+H+ 439 and 441.

reactant | N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]methanesulfonamide | 0.17 mmol, 63 mg | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C | C10H11ClN4O2S2
reactant | Pyridine | 1.27 mmol, 0.103 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 0.2 mmol, 0.027 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 0.1 mmol, 0.013 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[5-(6-chloro-5-methanesulfonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC(=C(N1)C)C=1C=NC(=C(C1)NS(=O)(=O)C)Cl)=O | C17H15ClN4O4S2
